US06307047B1
The 2-phenyl-4-chloro-5-methoxy-3(2H)-pyridazinone product was coupled with 4-fluorophenylboronic acid according to the method of Example 6 to provide 2-phenyl-4-(4-fluorophenyl)-5-methoxy-3(2H)-pyridazinone (yield: 1.1 g; 96%). 1H NMR (300 MHz, CDCl3) δ 4.00 (s, 3H), 7.10 (t, J=9 Hz, 2H), 7.45 (m, 3H), 7.60 (m, 4H), 8.06 (s, 1H). MS (DCI/NH3) m/z 297 (M+H)+.

reactant | 2-phenyl-4-chloro-5-methoxy-3(2H)-pyridazinone | C1(=CC=CC=C1)N1N=CC(=C(C1=O)Cl)OC | C11H9ClN2O2
reactant | 4-fluorophenylboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | 2-phenyl-4-(4-fluorophenyl)-5-methoxy-3(2H)-pyridazinone | yield: 1.1 g, 96% | C1(=CC=CC=C1)N1N=CC(=C(C1=O)C1=CC=C(C=C1)F)OC | C17H13FN2O2
